US07405231B2
ii) 3-(4-Methylsulfanyl-phenyl)-acrylamide
To a suspension of 5.00 g (25.7 mmol) 3-(4-methylsulfanyl-phenyl)-acrylic acid in 30.0 ml tetrahydrofuran and 0.3 ml N,N-dimethyl formamide a solution of 4.90 ml (38.6 mmol) oxalyl chloride in 5.0 ml tetrahydrofuran was added dropwise at 0° C. within 20 min. Stirring was continued at 0-5° C. for 30 min. and 3 h at room temperature thereafter. The resulting solution was cooled to 0-5° C. again and then added within 15 min. to 100 ml of a 25% aqueous ammonia solution. After evaporation of the organic solvent, 200 ml water were added and the solution cooled. The precipitated amide was collected, washed with water and n-heptane and dried at 40° C. in vacuo. Yield 4.46 g (90%) 3-(4-methylsulfanyl-phenyl)-acrylamide as an off-white solid melting at 193° C.

reactant | 3-(4-methylsulfanyl-phenyl)-acrylic acid | 25.7 mmol, 5.00 g | CSC1=CC=C(C=C1)C=CC(=O)O | C10H10O2S
reactant | oxalyl chloride | 38.6 mmol, 4.90 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 30.0 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethyl formamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 3-(4-Methylsulfanyl-phenyl)-acrylamide | CSC1=CC=C(C=C1)C=CC(=O)N | C10H11NOS
